US06322970B1
A. 2-Nitro-5-(3-hydroxypropoxy)benzaldehyde
3-Bromo-1-propanol (3.34 g, 24 mmol) was refluxed in 80 ml of anhydrous acetonitrile with 5-hydroxy-2-nitrobenzaldehyde (3.34 g, 20 mmol), K2CO3 (3.5 g), and KI (100 mg) overnight (15 hr). The reaction mixture was cooled to room temperature and 150 ml of methylene chloride was added. The mixture was filtered and the solid residue was washed with methylene chloride. The combined organic solution was evaporated to dryness and redissolved in 100 ml methylene chloride. The resulted solution was washed with saturated NaCl solution and dried over sodium sulfate. 4.31 g (96%) of desired product was obtained after removal of the solvent in vacuo.

reactant | 3-Bromo-1-propanol | 24 mmol, 3.34 g | BrCCCO | C3H7BrO
reactant | 5-hydroxy-2-nitrobenzaldehyde | 20 mmol, 3.34 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-Nitro-5-(3-hydroxypropoxy)benzaldehyde | 4.31 g, 96% | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OCCCO | C10H11NO5
